US07226925B2
Step 1: 3-Benzyloxy-2-bromopyridine*
A mixture of 2-bromo-pyridine-3-ol (50.4 g, 0.29 mol), benzyl bromide (45.5 g, 0.28 mol) and potassium carbonate (52 g, 0.38 mol) in dry N,N-dimethylformamide (DMF; 300 mL) was heated at 110° C. for 30 minutes. The mixture was filtered through a pad of Celite®, the solvent was removed under reduced pressure and the black residue was taken up between ice cold 0.5 M aqueous NaOH and EtOAc. The organic phase was washed twice with brine, dried (MgSO4), and concentrated under reduced pressure to yield 69.6 g (93%) of the title compound as a brown oil. HRMS m/z calcd for C12H10BrNO (M)+ 263.9946. found 263.9939. *Previously described in J. Med. Chem. 1996, 39, 5267–5275.

reactant | 2-bromo-pyridine-3-ol | 0.29 mol, 50.4 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | benzyl bromide | 0.28 mol, 45.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.38 mol, 52 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-2-bromopyridine | 69.6 g, 93% | C(C1=CC=CC=C1)OC=1C(=NC=CC1)Br | C12H10BrNO
